US07858796B2
(279) 3-{1-[(1,2-dimethyl-1H-imidazol-5-yl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide
Following the general procedure in example 267, 5-(phenyl)-3-(4-piperidinyl)-1H-indole-7-carboxamide (72 mg, 0.22 mmol), 1,2-dimethyl-1H-imidazole-5-sulfonyl chloride (64.2 mg, 0.33 mmol) and triethylamine (0.13 mL, 0.66 mmol) were reacted to form the desired product which was purified by Gilson HPLC (CH3CN/Water, 0.1% TFA) (48.3 mg, 45%).

reactant | 5-(phenyl)-3-(4-piperidinyl)-1H-indole-7-carboxamide | 0.22 mmol, 72 mg | C1(=CC=CC=C1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCNCC1 | C20H21N3O
reactant | 1,2-dimethyl-1H-imidazole-5-sulfonyl chloride | 0.33 mmol, 64.2 mg | CN1C(=NC=C1S(=O)(=O)Cl)C | C5H7ClN2O2S
reactant | TEA | 0.66 mmol, 0.13 mL | C(C)N(CC)CC | C6H15N
product | 3-{1-[(1,2-dimethyl-1H-imidazol-5-yl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide | CN1C(=NC=C1S(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N)C | C25H27N5O3S
